US07629473B2
Synthesis of 2-(2-bromo-5-fluoro-phenyl)-N-methyl-acetamide (Method 9)
Thionyl chloride (9.4 mL, 129 mmol) is added to a solution of (2-bromo-5-fluoro-phenyl)-acetic acid (20.0 g, 85.8 mmol) in dry toluene (400 mL). The mixture is heated at reflux for 4 hours and the solvent is removed in vacuo. The remanence is redissolved in dry toluene (400 mL) and cooled to 0° C. 40% methylamine (aq.) (17.7 mL, 515 mmol) is added dropwise at 0-5° C. The mixture is then stirred at ambient temperature for 16 hours, poured onto water (250 mL) and extracted with ethyl acetate (3×200 mL). The combined organic fractions are washed successively with saturated sodium bicarbonate solution (150 mL) and brine (150 mL), dried (MgSO4) and concentrated in vacuo. This gives 16.2 g (77%) of crystalline 2-(2-bromo-5-fluoro-phenyl)-N-methyl-acetamide.

reactant | Thionyl chloride | 129 mmol, 9.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (2-bromo-5-fluoro-phenyl)-acetic acid | 85.8 mmol, 20.0 g | BrC1=C(C=C(C=C1)F)CC(=O)O | C8H6BrFO2
reactant | methylamine | 515 mmol, 17.7 mL | CN | CH5N
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-bromo-5-fluoro-phenyl)-N-methyl-acetamide | BrC1=C(C=C(C=C1)F)CC(=O)NC | C9H9BrFNO
